US06017919
3-Nitrophthalic anhydride (1.93 g, 0.01 mol, 1 eq) and 2-(4-hydroxyphenyl)-ethylamine (2.06 g, 0.015 mol, 1.5 eq) were refluxed under heating in toluene (20 ml) for 3 hours. The reaction mi i t ure was cooled to room temperature, and ethyl acetate (100 ml) was added to this reaction mixture. The organic layer was washed twice with dil. aqueous hydrochloric acid solution (30 ml), further washed with saturated brine (100 ml), and dried over anhydrous sodium sulfate. After the drying agent was filtered off, the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=1/1) to give N-[2-(4-hydroxyphenyl)ethyl]-3-nitrophthalimide (2.92 g, 92.8%) as a colorless solid. This was further purified by recrystallization from methanol to give colorless crystals (1.9 g, 60.8%).

reactant | 3-Nitrophthalic anhydride | 0.01 mol, 1.93 g, 1 eq | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | 2-(4-hydroxyphenyl)-ethylamine | 0.015 mol, 2.06 g, 1.5 eq | OC1=CC=C(C=C1)CCN | C8H11NO
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(4-hydroxyphenyl)ethyl]-3-nitrophthalimide | 2.92 g, 92.8% | OC1=CC=C(C=C1)CCN1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O | C16H12N2O5
